US09351974B2
Step e: Synthesis of 2-(1H-indazol-5-ylamino)-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione
This compound was prepared from 2-chloro-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione and 5-aminoindazole, according to procedures similar to the preparation of example 18 from (7R)-2-chloro-8-cyclohexyl-7-methyl-5-phenyl-7,8-dihydropteridin-6(5H)-one. Examples 306 and 307 was prepared according to procedures similar for the preparation of Example 305, using corresponding starting materials and intermediates. For example, for synthesis of example 307, cyclopentanamine was used in the step a of the synthesis.

reactant | 2-chloro-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione | ClC1=NC=2N(C(C(N(C2C=N1)C1=CC=CC=C1)=O)=O)CCC(C)C | C17H17ClN4O2
reactant | 5-aminoindazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | (7R)-2-chloro-8-cyclohexyl-7-methyl-5-phenyl-7,8-dihydropteridin-6(5H)-one | ClC1=NC=2N([C@@H](C(N(C2C=N1)C1=CC=CC=C1)=O)C)C1CCCCC1 | C19H21ClN4O
reactant | cyclopentanamine | C1(CCCC1)N | C5H11N
product | 2-(1H-indazol-5-ylamino)-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione | N1N=CC2=CC(=CC=C12)NC1=NC=2N(C(C(N(C2C=N1)C1=CC=CC=C1)=O)=O)CCC(C)C | C24H23N7O2
